US09416124B2
Pyridine-3-ylmethylene-(2,2,2-trifluoro-ethyl)-amine (1a2) (intermediate of Formula 1a when R1 is CF3 and Ar1 is 3-pyridinyl)
To a solution of 2,2,2-Trifluoroethylamine hydrochloride (3.98 g, 29.4 mmol) in acetonitrile (9 mL) was added 3-pyridinecarboxaldehyde (Sigma-Aldrich) (2.1 g, 19.6 mmol) followed by triethylamine (4 ml, 29.43 mmol) at 0° C. The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was filtered and the solids washed with acetonitrile. The filtrate was then concentrated in vacuo. The residue was taken up in ethyl ether, filtered and concentrated to afford 3.12 g (84%) of the tile compound as a white foam. 1H NMR (300 MHz, DMSO-d6) δ4.40 (m, 2H), 7.52 (m, 1H), 8.18 (m, 1H), 8.61 (s, 1H), 8.70 (dd, J=1.8, 4.8 Hz, 1H), 8.92 (d, J=1.8, 1H). MS (ESI, [M+H] +), 189.5.

reactant | 2,2,2-Trifluoroethylamine hydrochloride | 29.4 mmol, 3.98 g | Cl.FC(CN)(F)F
reactant | 3-pyridinecarboxaldehyde | 19.6 mmol, 2.1 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | triethylamine | 29.43 mmol, 4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | Pyridine-3-ylmethylene-(2,2,2-trifluoro-ethyl)-amine | 3.12 g, 84% | N1=CC(=CC=C1)C=NCC(F)(F)F | C8H7F3N2
